US07202363B2
4-amino-N-{[1-(2-amino-2-oxoethyl)pyrrolidin-2-yl]methyl}-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide triacetate
A mixture of 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(pyrrolidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide (0.100 g, 0.18 mmol), 2-bromoacetamide (0.03 g, 0.217 mmol) and potassium carbonate (0.05 g, 0.36 mmol) in N,N-dimethylformamide (2 mL) was stirred at ambient temperature for 18 hours. The solvent was removed in vacuo and the residue was purified by preparative RP-HPLC (Hypersil-HS C18, 8 μm, 100 Å, 25 cm; 5–100% acetonitrile—0.1M ammonium acetate over 25 min, 21 ml/min). The acetonitrile was removed in vacuo and the aqueous mixture was lyophilized to give the title compound as a white solid.: 1H NMR (DMSO-d6, 400 MHz) δ 9.50(s, 1H), 8.56 (s, 1H), 8.44 (t, 1H), 7.98 (d, 1H), 7.69 (d, 1H), 7.58 (d, 1H), 7.58 (s, 1H), 7.35 (m, 3H), 7.15 (m, 3H), 7.06 (d, 1H), 6.0 (bs, 2H), 4.04 (s, 3H), 3.91 (s, 3H), 3.42 (m, 1H), 3.38 (d, 1H), 3.24 (m, 1H), 3.04 (m, 1H), 2.86 (d, 1H), 2.79 (m, 1H), 2.27 (m, 1H), 1.86 (s, 9H), 1.85 (m, 1H), 1.68 (m, 3H); LCMS (Conditions a), Rt 2.88 min.; MS: MH+ 612.

reactant | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-(pyrrolidin-2-ylmethyl)thieno[3,2-c]pyridine-7-carboxamide | 0.18 mmol, 0.100 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC2NCCC2 | C30H30N6O3S
reactant | 2-bromoacetamide | 0.217 mmol, 0.03 g | BrCC(=O)N | C2H4BrNO
reactant | potassium carbonate | 0.36 mmol, 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-amino-N-{[1-(2-amino-2-oxoethyl)pyrrolidin-2-yl]methyl}-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide triacetate | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NCC2N(CCC2)CC(=O)N | InChI=1S/C32H33N7O4S.3C2H4O2/c1-38-24-8-4-3-6-19(24)12-25(38)32(42)37-23-10-9-18(13-26(23)43-2)22-17-44-29-21(15-35-30(34)28(22)29)31(41)36-14-20-7-5-11-39(20)16-27(33)40;3*1-2(3)4/h3-4,6,8-10,12-13,15,17,20H,5,7,11,14,16H2,1-2H3,(H2,33,40)(H2,34,35)(H,36,41)(H,37,42);3*1H3,(H,3,4)
